US04309407
Preparation of 8-[5-(3-hydroxyoct-1-enyl)thien-2-yl]octanoic acid methyl ester.
1 G of 8-[5-(3-oxooct-1-enyl)thien-2-yl]octanoic acid methyl ester was dissolved in 25 ml of methanol and the solution was cooled to about 0° C. Under vigorous stirring, 0.9 g of sodium borohydride was added and the reaction mixture was warmed slowly to room temperature after a period of 30 minutes. After about 1 hour, the reaction mixture was diluted with water, adjusted to a pH of 5.5 to 6 with dilute hydrochloric acid and extracted with ether. The ether phase was washed with water, dried over sodium sulfate, and then concentrated to dryness under vacuum. The residue was purified by column chromatography (silica gel, using petroleum ether and ethyl acetate as eluants). The product was obtained as 0.9 g of an oil (90% yield); ir (film): 3450 (OH), 1740 (C=O), and 1645 cm-1 (C=C).

reactant | 8-[5-(3-oxooct-1-enyl)thien-2-yl]octanoic acid methyl ester | COC(CCCCCCCC=1SC(=CC1)C=CC(CCCCC)=O)=O | C21H32O3S
reactant | sodium borohydride | 0.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
solvent | water | O | H2O
product | 8-[5-(3-hydroxyoct-1-enyl)thien-2-yl]octanoic acid methyl ester | 0.9 g, 90% yield | COC(CCCCCCCC=1SC(=CC1)C=CC(CCCCC)O)=O | C21H34O3S
